US04760181
N-(4-ANILINO-PHENYL)-β-MERCAPTOPROPIONAMIDE
A mixture of 18.4 grams of N-phenyl-p-phenylene diamine, 10.6 grams of β-mercaptopropionic acid and 120 milliliters of xylene (technical grade) was heated to reflux (about 140° C.) under nitrogen atmosphere, with stirring. A 1.6 milliliter quantity of water (90% of theory) was removed from this mixture by azeotropic distillation through a Vigreux column with the aid of a Dean-Stark trap, during a 13-hour period. A solid product was isolated in 18.7 grams quantity from the reaction mixture by cooling the latter, pouring into hexane, collecting the resultant crystalline product by filtration, washing the crushed crystalline product with more hexane and evaporating to dryness. The product was recrystallized from hot toluene to 17.6 grams (64.5%) of white platelets melting at 98.3°-99.5° C. The resultant new compound, N-(4-anilino-phenyl)-beta-mercaptopropionamide, sometimes referred to hereafter as MPDA, had merceptan assay of 93.8% of theoretical, on the basis of a potentiometric titration with an isopropyl alcohol solution of silver nitrate, following a method described by R. M. Pierson, A. J. Costanza and A. H. Weinstein, J. Polymer Sci., 17, 234 (1955).

reactant | N-phenyl-p-phenylene diamine | 18.4 grams | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | β-mercaptopropionic acid | 10.6 grams | SCCC(=O)O | C3H6O2S
reactant | xylene | 120 milliliters | C=1(C(=CC=CC1)C)C | C8H10
solvent | hexane | CCCCCC | C6H14
product | N-(4-ANILINO-PHENYL)-β-MERCAPTOPROPIONAMIDE | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CCS)=O | C15H16N2OS
